US07378409B2
A sample of 2-amino-N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)acetamide was combined with 3-Trifluoromethylbenzoic acid (1 equivalent), EDCI (1 equivalent), HOBT (1.1 equivalents), and triethylamine (1 equivalent) in 2 mL of CH2Cl2 was stirred at room temperature overnight. The reaction mixture was directly chromatographed on silica gel (eluting with 2-8% NH4OH/MeOH/CH2Cl2) to give N-(2-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide as a white solid. MS found: (M+H)+=456.47; 1H NMR (400 MHz, CDCl3) δ(TMS): 0.83-1.98 (m, 25H), 2.67-2.79 (m, 1H) 4.12-4.28 (m, 3H), 6.80-6.90 (m, 1H), 7.49-7.63 (m, 2H), 7.78-7.84 (m, 1H), 8.00-8.06 (m, 1H), 8.15 (s, 1H).

reactant | 2-amino-N-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexyl)acetamide | NCC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)CCCC | C16H33N3O
reactant | 3-Trifluoromethylbenzoic acid | 1 equivalent | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | EDCI | 1 equivalent | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.1 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(2-((1S,2R,4R)-2-butyl-4-(tert-butylamino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(CCC)[C@H]1[C@H](CC[C@H](C1)NC(C)(C)C)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C24H36F3N3O2
